US08039450B2
To a solution of 5-[4-cyano-2-(formylaminomethyl)phenoxy]-1,3-dihydro-1-hydroxy-2,1-benzoxaborole (250 mg, 0.812 mmol) in ethanol (16 mL) was added 6 M HCl (4 mL), and the mixture was refluxed for 2 h. The solvent was removed under reduced pressure, and the residue was treated with ether to give 5-(2-aminomethyl-4-cyanophenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole hydrochloride (247 mg, 98%).

reactant | 5-[4-cyano-2-(formylaminomethyl)phenoxy]-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | 0.812 mmol, 250 mg | C(#N)C1=CC(=C(OC=2C=CC3=C(COB3O)C2)C=C1)CNC=O | C16H13BN2O4
reactant | HCl | 6 M, 4 mL | Cl | ClH
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | 5-(2-aminomethyl-4-cyanophenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole hydrochloride | 247 mg, 98% | Cl.NCC1=C(OC=2C=CC3=C(COB3O)C2)C=CC(=C1)C#N | InChI=1S/C15H13BN2O3.ClH/c17-7-10-1-4-15(11(5-10)8-18)21-13-2-3-14-12(6-13)9-20-16(14)19;/h1-6,19H,8-9,18H2;1H
